US07067537B2
ii) Production of 4-methyl-3-[2-(2-methyl-5-nitrophenyl)-1,3-thiazol-4-yl]pyridine
By the reaction in the same manner as in Example 25-ii) using 2-methyl-5-nitrobenzonitrile (1.25 g), 2-methyl-5-nitrobenzenecarbothioamide was obtained as a yellow powder. Then, by the reaction in the same manner as in Example 25-iii) using 2-bromo-1-(4-methylpyridin-3-yl)ethanone hydrobromate (1.35 g) and 2-methyl-5-nitrobenzenecarbothioamide, the title compound (460 mg) was obtained as colorless needle crystals.

reactant | 2-bromo-1-(4-methylpyridin-3-yl)ethanone | 1.35 g | BrCC(=O)C=1C=NC=CC1C | C8H8BrNO
reactant | 2-methyl-5-nitrobenzenecarbothioamide | CC1=C(C=C(C=C1)[N+](=O)[O-])C(N)=S | C8H8N2O2S
product | 4-methyl-3-[2-(2-methyl-5-nitrophenyl)-1,3-thiazol-4-yl]pyridine | 460 mg | CC1=C(C=NC=C1)C=1N=C(SC1)C1=C(C=CC(=C1)[N+](=O)[O-])C | C16H13N3O2S
